US06194406B1
Combine 1-(5-(ethoxycarbonyl)fur-2-ylmethyl)-2-chloro-1H-benzimidazole (10 mmol), [1,4]diazepane (10 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (1.8 mL) in pyridine (20 mL). Heat to reflux. After 2 days, evaporate in vacuo to give a residue. Combine the residue and ethyl acetate. Extract with water and brine. Dry the the organic layer over Na2SO4, filter, and evaporate in vacuo to give 4-(1-(5-(ethoxycarbonyl)fur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane.

reactant | 1-(5-(ethoxycarbonyl)fur-2-ylmethyl)-2-chloro-1H-benzimidazole | 10 mmol | C(C)OC(=O)C1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)Cl | C15H13ClN2O3
reactant | [1,4]diazepane | 10 mmol | N1CCNCCC1 | C5H12N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.8 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-(1-(5-(ethoxycarbonyl)fur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)OC(=O)C1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C20H24N4O3
